US07635715B2
Step C: Preparation of Ethyl 1-benzyl-4-(2-(3-ethoxy-3-oxoprop-1-ynyl)phenyl)piperidine-4-carboxylate
n-Butyllithium (0.76 mL, 1.9 mmol) was added to a stirred solution of diisopropylamine (0.28 mL, 2.0 mmol) in THF (20 mL, 244 mmol) at −78° C. The reaction mixture was then allowed to warm to ambient temperature for 5 minutes before it was cooled down to −78° C. Ethyl 1-benzyl-4-(2-ethynylphenyl)piperidine-4-carboxylate (0.22 g, 0.63 mmol) was then added dropwise as a solution in THF (20 mL, 244 mmol). After 15 minutes, ethyl chloroformate (0.19 mL, 2.0 mmol) in 5 mL of THF was added to the reaction. The resulting solution was allowed to warm to ambient temperature and then stirred for 30 minutes. MeOH (3 mL) was added, and the resulting mixture was concentrated in vacuo to give a bright-yellow oil. The residue was dissolved in DCM and purified by Isco HPLC (0-80% EtOAc/hexane) to give the title compound as a yellow oil (0.15 g). MS m/e=420 (M+H)+.

reactant | n-Butyllithium | 1.9 mmol, 0.76 mL | C(CCC)[Li]
reactant | diisopropylamine | 2.0 mmol, 0.28 mL | C(C)(C)NC(C)C | C6H15N
reactant | Ethyl 1-benzyl-4-(2-ethynylphenyl)piperidine-4-carboxylate | 0.63 mmol, 0.22 g | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OCC)C1=C(C=CC=C1)C#C | C23H25NO2
reactant | ethyl chloroformate | 2.0 mmol, 0.19 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | THF | 244 mmol, 20 mL | C1CCOC1 | C4H8O
solvent | THF | 244 mmol, 20 mL | C1CCOC1 | C4H8O
solvent | MeOH | 3 mL | CO | CH4O
product | Ethyl 1-benzyl-4-(2-(3-ethoxy-3-oxoprop-1-ynyl)phenyl)piperidine-4-carboxylate | 0.15 g | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OCC)C1=C(C=CC=C1)C#CC(=O)OCC | C26H29NO4
